US04020083
To a flask containing 129.8 gms. of 9-chloro-1,2,4-triazolo[4,3-c]quinazoline is added 2600 ml. of a 10% KOH solution and the resulting mixture heated to reflux. A gentle reflux is maintained overnight after which time the mixture is neutralized to pH 7.0 with cooling and stirring by adding dropwise a 1:1 HCl solution and the resulting precipitate filtered off, washed several times with H2O and allowed to air dry. The residue was dissolved in methanol and evaporated in vacuo to dryness. The resultant residue is triturated with benzene and the precipitate filtered off to obtain 5-(2-amino-5-chlorophenyl)-s-triazole, m.p. 170°-175° C.

reactant | 9-chloro-1,2,4-triazolo[4,3-c]quinazoline | ClC1=CC=2C=3N(C=NC2C=C1)C=NN3 | C9H5ClN4
reactant | KOH | [OH-].[K+]
reactant | HCl | Cl | ClH
product | 5-(2-amino-5-chlorophenyl)-s-triazole | NC1=C(C=C(C=C1)Cl)C1=NC=NN1 | C8H7ClN4
